US07977344B2
6-Amino-2-(butyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one hydrochloride salt
To 6-Amino-2-(propyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one (52.6 mg) was added an excess of 4N hydrogen chloride in 1,4-dioxane (1 mL). The resultant solution was evaporated under reduced pressure (after 5 minutes) to give a colourless gum containing some crystals. To this material was added diethyl ether to triturate out the 1,4-dioxane, giving a free flowing solid on scratching. After evaporation to dryness under reduced pressure for 2 hours (water bath at 50° C., minimum vacuo ˜38 mbar) gave the title compound (61 mg) an off-white free flowing solid.

reactant | 6-Amino-2-(propyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-purin-8-one | 52.6 mg | NC1=C2NC(N(C2=NC(=N1)OCCC)CC1COCC1)=O | C13H19N5O3
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one hydrochloride salt | 61 mg | Cl.NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1COCC1)=O | InChI=1S/C14H21N5O3.ClH/c1-2-3-5-22-13-17-11(15)10-12(18-13)19(14(20)16-10)7-9-4-6-21-8-9;/h9H,2-8H2,1H3,(H,16,20)(H2,15,17,18);1H
